US07973181B2
Stage 4: (S)-2-tert-Butoxycarbonylamino-4-hydroxy-butyric acid cyclopentyl ester
(S)-2-tert-Butoxycarbonylamino-4-(tert-butyl-dimethyl-silanyloxy)-butyric acid cyclopentyl ester (1.57 g, 3.9 mmol) was dissolved in acetic acid:THF:water (3:1:1, 100 ml). The reaction mixture was stirred at 30° C. for 16 hours for complete reaction. Ethyl acetate (200 ml) was added and washed with 1M Na2CO3, 1M HCl and brine. The ethyl acetate extracts were dried over magnesium sulphate and evaporated under reduced pressure to give the product as a clear oil which crystallised on standing (1.0 g, 95%). LCMS purity 100%, m/z 310.3 [M++Na], 1H NMR (300 MHz, CDCl3), δ: 5.40 (1 H, d, J=6.5 Hz), 5.20 (1 H, m), 4.40 (1H, m), 3.65 (2H, m), 2.15 (1H, m), 1.90-1.55 (9H, bm), 1.45 (9H, s).

reactant | (S)-2-tert-Butoxycarbonylamino-4-(tert-butyl-dimethyl-silanyloxy)-butyric acid cyclopentyl ester | 3.9 mmol, 1.57 g | C1(CCCC1)OC([C@H](CCO[Si](C)(C)C(C)(C)C)NC(=O)OC(C)(C)C)=O | C20H39NO5Si
reactant | Ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid THF water | 100 ml | C(C)(=O)O.C1CCOC1.O
product | (S)-2-tert-Butoxycarbonylamino-4-hydroxy-butyric acid cyclopentyl ester | C1(CCCC1)OC([C@H](CCO)NC(=O)OC(C)(C)C)=O | C14H25NO5
